US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2,6-difluorophenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 33.2 mg (0.21 mmol) of 2,6-difluorophenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 40 mg (75.9% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorophenyl isocyanate | 0.21 mmol, 33.2 mg | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2,6-difluorophenyl)amino]carbonyl}-amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=C(C=CC=C1F)F | InChI=1S/C23H22F2N4O2S.ClH/c24-16-2-1-3-17(25)21(16)28-23(31)26-15-5-4-14-10-20(32-19(14)11-15)22(30)27-18-12-29-8-6-13(18)7-9-29;/h1-5,10-11,13,18H,6-9,12H2,(H,27,30)(H2,26,28,31);1H/t18-;/m0./s1
